US06103910
a) Acetic acid (1RS,4RS)-4-acetoxy-cyclohex-2-enyl ester
Lit., J. Org. Chem., 49:4619 (1984). To a stirred solution of 2.8 g (12.5 mmol) palladium acetate, 27.2 g (267 mmol) lithium acetate, and 7.64 g (70.7 mmol) benzoquinone in 200 ml acetic acid at room temperature were added 26.1 g (300 mmol) manganese dioxide and a solution of 23.8 ml (250 mmol) 1,3-cyclohexadiene in 400 ml pentane, and stirring continued for 16 h. The two-phase reaction mixture was separated and the acetic acid phase extracted twice with pentane. The combined organic extracts were washed successively with saturated brine, water, and 2 M sodium hydroxide solution, then the organic phases were dried over sodium sulphate and concentrated in vacuo. Recrystallisation from pentane afforded 16.1 g (33%) of the title compound as an off-white crystalline solid.

reactant | lithium acetate | 267 mmol, 27.2 g | C(C)(=O)[O-].[Li+]
reactant | benzoquinone | 70.7 mmol, 7.64 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 1,3-cyclohexadiene | 250 mmol, 23.8 ml | C1=CC=CCC1 | C6H8
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | pentane | 400 ml | CCCCC | C5H12
catalyst | palladium acetate | 12.5 mmol, 2.8 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | manganese dioxide | 300 mmol, 26.1 g | [O-2].[O-2].[Mn+4]
product | Acetic acid (1RS,4RS)-4-acetoxy-cyclohex-2-enyl ester | 16.1 g, 33% | C(C)(=O)OC1C=CC(CC1)OC(C)=O | C10H14O4
